US06174884B1
4.2 g of 3-hydrazino-2-hydroxy-6-phenylhexane are are dissolved in 20 ml of methanol, and 1.38 ml of triethylamine are added. Then, 1.38 g of 1,1-dimethoxy-2,2-dicyano-ethylene are added. The reaction solution is stirred for 2 hours at approx. 20° C. For work-up, the mixture is diluted with citric acid solution and ethyl acetate and extracted three times with ethyl acetate. The combined ethyl acetate phases are dried with magnesium sulphate and evaporated in vacuo. The evaporation residue is chromatographed on silica gel (Merck Si 60 0.04-0.063 mm) with a cyclohexane/ethyl acetate mixture in a ratio of 4:1 to 1:1. This gives a fraction which, after evaporation in vacuo, affords 0.959 g (=30.5% of theory) of 5-amino-4-cyano-3-methoxy-1-[2-hydroxy-6-phenyl-hex-3-yl]-pyrazole as diastereomer mixture.

reactant | 3-hydrazino-2-hydroxy-6-phenylhexane | 4.2 g | N(N)C(C(C)O)CCCC1=CC=CC=C1 | C12H20N2O
reactant | triethylamine | 1.38 ml | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethoxy-2,2-dicyano-ethylene | 1.38 g | COC(=C(C#N)C#N)OC | C6H6N2O2
solvent | methanol | 20 ml | CO | CH4O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-amino-4-cyano-3-methoxy-1-[2-hydroxy-6-phenyl-hex-3-yl]-pyrazole | 0.959 g, 30.5% | NC1=C(C(=NN1C(C(C)O)CCCC1=CC=CC=C1)OC)C#N | C17H22N4O2
